US06583282B1
5-(2,2,2-Trichloroethoxycarbonyl)amino-3-t-butyl-1-p-tolylpyrazole:
A mixture of 5-amino-3-t-butyl-1-p-tolylpyrazole hydrochloride (300 g, 1.13 mol), water (0.9 L), EtOAc (2.1 L) and NaOH (117 g, 2.84 mol) was stirred between 5-15° C. for 30 min. To this mixture, 2,2,2-trichloroethyl chloroformate (342 g, 1.58 mol) was added over 1 h between 5-15 5° C. The mixture was stirred at room temperature for 2 h, and then the aqueous layer was separated from the EtOAc layer. The EtOAc layer was washed with brine (2×0.9 L) and dried over MgSO4 (60 g). The EtOAc layer was collected by filtration. To this solution, heptane was added. A part of the solution was removed by distillation. The product was crystallized from the solution, collected by filtration and dried in vacuum oven to constant weight. Yield: 409 g, 90%. 1H NMR (CDCl3) δ 7.40 (d, 2H), 7.30 (d, 2H), 6.40 (s, 1H), 4.80 (s, 2H), 2.40 (s, 3H), 1.40 (s, 9H). MS (EI) m/z 404 (M+).

reactant | 5-amino-3-t-butyl-1-p-tolylpyrazole hydrochloride | 1.13 mol, 300 g | Cl.NC1=CC(=NN1C1=CC=C(C=C1)C)C(C)(C)C
reactant | water | 0.9 L | O | H2O
reactant | NaOH | 2.84 mol, 117 g | [OH-].[Na+]
reactant | 2,2,2-trichloroethyl chloroformate | 1.58 mol, 342 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | EtOAc | 2.1 L | CCOC(=O)C | C4H8O2
product | 5-(2,2,2-Trichloroethoxycarbonyl)amino-3-t-butyl-1-p-tolylpyrazole | ClC(COC(=O)NC1=CC(=NN1C1=CC=C(C=C1)C)C(C)(C)C)(Cl)Cl | C17H20Cl3N3O2
